US08133909B2
(4-Fluoro-3-methyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine
In analogy to the procedure described for the synthesis example 71 (step 1), the title compound (4-fluoro-3-methyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine (MS m/e: 299.3 [M+H]+) was prepared from 5-bromo-2-fluorotoluene instead of 6-bromo-2,3-dihydro-benzofuran and 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine instead of 2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine.

reactant | 5-bromo-2-fluorotoluene | BrC=1C=CC(=C(C1)C)F | C7H6BrF
reactant | 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine | FC(C=1C=CC(=NC1)CCN)(F)F | C8H9F3N2
product | (4-fluoro-3-methyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine | FC1=C(C=C(C=C1)NCCC1=NC=C(C=C1)C(F)(F)F)C | C15H14F4N2
